*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/3.90e-03[uF]/80[V]
* Murata P/N :GCM2165C1K392JA16
* Property : C = 3.90e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C1K392JA16 Port1 Port2
C01 Port1 N01 3.89e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.43e-11
R03 N02 N03 9.29e-03
L04 N03 N04 1.69e-11
R04 N03 N04 2.85e-01
L05 N04 N05 2.81e-11
R05 N04 N05 2.47e-01
L06 N05 N06 6.59e-11
R06 N05 N06 1.72e-02
L07 N06 N07 2.18e-10
R07 N06 N07 3.61e-03
C08 N07 N08 1.89e-08
L08 N07 N08 1.61e-11
R08 N07 N08 1.96e-01
C09 N08 N09 4.35e-09
L09 N08 N09 2.54e-11
R09 N08 N09 3.39e-01
C10 N09 N10 1.39e-09
L10 N09 N10 1.96e-11
R10 N09 N10 1.24e-01
C11 N10 Port2 8.33e-13
L11 N10 Port2 3.50e-10
R11 N10 Port2 6.40e+02
.ENDS GCM2165C1K392JA16
