*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.10e-02[uF]/80[V]
* Murata P/N :GCM2192C1K113JA01
* Property : C = 1.10e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2192C1K113JA01 Port1 Port2
C01 Port1 N01 1.10e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 2.66e-10
R03 N02 N03 2.88e-03
L04 N03 N04 6.98e-11
R04 N03 N04 2.40e-01
L05 N04 N05 5.66e-11
R05 N04 N05 8.64e-03
L06 N05 N06 2.29e-10
R06 N05 N06 3.32e-03
C07 N06 N07 3.43e-08
L07 N06 N07 3.52e-11
R07 N06 N07 2.63e-01
C08 N07 N08 1.16e-08
L08 N07 N08 4.08e-11
R08 N07 N08 3.08e-01
C09 N08 N09 7.97e-08
L09 N08 N09 2.77e-12
R09 N08 N09 5.18e-02
C10 N09 N10 1.52e-08
L10 N09 N10 8.99e-12
R10 N09 N10 9.80e-02
C11 N10 Port2 3.81e-12
L11 N10 Port2 6.78e-11
R11 N10 Port2 2.39e+01
.ENDS GCM2192C1K113JA01
